US08703922B2
Under a nitrogen atmosphere, 0.49 mL (3.5 mmol) of triethylamine, 0.68 g (3.54 mmol) of p-toluenesulfonyl chloride, and 15 mg (0.16 mmol) of trimethylamine hydrochloride were added to a solution of 1.0 g (3.2 mmol) of 4,8,12,16-tetramethylheptadec-3-en-1-ol in dry methylene chloride (3.2 mL) at 0° C., sequentially. After being stirred for 2 hours at room temperature, 0.080 mL (0.64 mmol) of N,N-dimethyl-1,3-propanediamine was added to the reaction mixture at 0° C. After being stirred for 15 min, water was added, and the mixture was extracted with methylene chloride. The extract was washed with 1M hydrochloric acid, saturated sodium bicarbonate aqueous solution, and saturated brine, successively, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated to obtain (4,8,12,16-tetramethylheptadec-3-enyl)tosylate as a crude product.

reactant | triethylamine | 3.5 mmol, 0.49 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 3.54 mmol, 0.68 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | trimethylamine hydrochloride | 0.16 mmol, 15 mg | Cl.CN(C)C
reactant | 4,8,12,16-tetramethylheptadec-3-en-1-ol | 3.2 mmol, 1.0 g | CC(=CCCO)CCCC(CCCC(CCCC(C)C)C)C | C21H42O
reactant | N,N-dimethyl-1,3-propanediamine | 0.64 mmol, 0.080 mL | CN(CCCN)C | C5H14N2
solvent | methylene chloride | 3.2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (4,8,12,16-tetramethylheptadec-3-enyl)tosylate | CC(=CCCOS(=O)(=O)C1=CC=C(C)C=C1)CCCC(CCCC(CCCC(C)C)C)C | C28H48O3S
